US07473669B2
A mixture of 3,5-dibromobenzonitrile (3 g, 11.5 mmol), thiophene-3-boronic acid (2.35 g, 18 mmol), dichlorobis(triphenylphosphine)palladium(II)(1.21 g, 1.7 mmol), tri-o-tolylphosphine (0.524 g, 1.7 mmol), sodium carbonate (3.46 g, 33 mmol) in aqueous acetonitrile (1:10), 110 mL) was refluxed under nitrogen for 6 hours, cooled to room temperature, concentrated under reduced pressure, suspended in hydrochloric acid (2N, 50 mL), and extracted with diethyl ether (3×80 mL). The combined organic extracts were washed with water (150 mL), saturated aqueous sodium bicarbonate (150 mL), and brine (50 mL), dried over magnesium sulfate, adsorbed onto silica, chromatographed on silica and eluted with a mobile phase of ethyl acetate in hexane. The first fraction was concentrated under reduced pressure to leave 3-bromo-5-(thien-3-yl)benzonitrile in the form of a yellow amorphous solid. Yield 1.47 g (48 percent). mp 62-63° C.; 1H NMR (CDCl3) δ 7.94 (t, J=1.8 Hz, 1H), 7.79 (t, J=1.5 Hz, 1H), 7.69 (t, J=1.8 Hz, 1H), 7.54 (dd, J1=3.0 Hz, J2=1.5 Hz, 1H), 7.46 (dd, J1=5.1 Hz, J2=3.0 Hz, 1H), 7.34(dd, J1=4.8 Hz, J2=1.5 Hz, 1H); EI/MS 265 m/e (M+); IR (KBr) σ cm−1 2230.

reactant | 3,5-dibromobenzonitrile | 11.5 mmol, 3 g | BrC=1C=C(C#N)C=C(C1)Br | C7H3Br2N
reactant | thiophene-3-boronic acid | 18 mmol, 2.35 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | tri-o-tolylphosphine | 1.7 mmol, 0.524 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | sodium carbonate | 33 mmol, 3.46 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1.7 mmol, 1.21 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-bromo-5-(thien-3-yl)benzonitrile | BrC=1C=C(C#N)C=C(C1)C1=CSC=C1 | C11H6BrNS
